US09079866B2
2-((2-Bromophenyl)sulfonyl)-2-methylpropanamide
The title compound was prepared using conditions analogous to those used to make 1-(2-bromophenylsulfonyl)cyclopentanecarboxamide starting with 2-((2-bromophenyl)sulfonyl)-2-methylpropanenitrile.

reactant | 1-(2-bromophenylsulfonyl)cyclopentanecarboxamide | BrC1=C(C=CC=C1)S(=O)(=O)C1(CCCC1)C(=O)N | C12H14BrNO3S
reactant | 2-((2-bromophenyl)sulfonyl)-2-methylpropanenitrile | BrC1=C(C=CC=C1)S(=O)(=O)C(C#N)(C)C | C10H10BrNO2S
product | 2-((2-Bromophenyl)sulfonyl)-2-methylpropanamide | BrC1=C(C=CC=C1)S(=O)(=O)C(C(=O)N)(C)C | C10H12BrNO3S
